US08981084B2
(4-(3-Methoxyphenyl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 1-(3-methoxyphenyl)piperazine and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (110 mg, yield 49%). 1H NMR (400 MHz, CDCl3) δ 8.22-8.20 (m, 2H), 7.67-7.60 (m, 2H), 7.23-7.19 (m, 1H), 6.57-6.54 (m, 1H), 6.49-6.48 (m, 2H), 3.98 (m, 2H), 3.80 (s, 3H), 3.61 (m, 2H), 3.30-3.16 (m, 4H). MS (ESI) m/z: Calculated for C21H18F3N4O3: 432.14. found: 433.2 (M+H)+

reactant | 1-(3-methoxyphenyl)piperazine | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (4-(3-Methoxyphenyl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 49% | COC=1C=C(C=CC1)N1CCN(CC1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C21H19F3N4O3
